US08669271B2
4-[5-(6-Cyano-pyridin-3-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 5-(4,4,5,5-tetramethyl-[1,3,2]dioxa borolan-2-yl)-pyridine-2-carbonitrile following a procedure analogous to that described in Example 28. LC (method 10): tR=1.70 min; Mass spectrum (ESI+): m/z=407 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxa borolan-2-yl)-pyridine-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C#N)C | C12H15BN2O2
product | 4-[5-(6-Cyano-pyridin-3-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C=2C=NC(=CC2)C#N)O1 | C23H26N4O3
